US20010020034A1
3-(2-Fluoro-4-methyl-benzyloxy)-5-[3-(5-isopropylamino-pentyl)-ureido]-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2-fluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and N-isopropyl-pentane-1,5-diamine by the procedure analogous to Example 1. MS (APCl, m/z): 452 [M+H]+.

reactant | [4-carbamoyl-3-(2-fluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C=C1)C)F)C(N)=O)=O | C19H16FN3O4S
reactant | N-isopropyl-pentane-1,5-diamine | C(C)(C)NCCCCCN | C8H20N2
product | 3-(2-Fluoro-4-methyl-benzyloxy)-5-[3-(5-isopropylamino-pentyl)-ureido]-isothiazole-4-carboxylic acid amide | FC1=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCCCNC(C)C)C=CC(=C1)C | C21H30FN5O3S
